US08247429B2
methyl 3-bromo-6-(dibenzylamino)pyridine-2-carboxylate
To a suspension of 60% sodium hydride (880 mg, 22.0 mmol) and benzyl bromide (6.24 mL, 52.5 mmol) in N,N-dimethylformamide (80 mL) was added a solution of methyl 6-amino-3-bromopyridine-2-carboxylate (2.42 g, 10.5 mmol) in N,N-dimethylformamide (25 mL) under ice-cooling and the mixture was stirred for 30 min. The reaction solution was diluted with diethyl ether, washed with water and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=0/100→20/80) to give the title compound (3.16 g, yield 73%).

reactant | sodium hydride | 22.0 mmol, 880 mg | [H-].[Na+]
reactant | benzyl bromide | 52.5 mmol, 6.24 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | methyl 6-amino-3-bromopyridine-2-carboxylate | 10.5 mmol, 2.42 g | NC1=CC=C(C(=N1)C(=O)OC)Br | C7H7BrN2O2
solvent | N,N-dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | methyl 3-bromo-6-(dibenzylamino)pyridine-2-carboxylate | 3.16 g, yield 73% | BrC=1C(=NC(=CC1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)C(=O)OC | C21H19BrN2O2
